US05945382
2.4 g (0.05 mol) of hydrazine hydrate are added slowly and at room temperature to a solution of 9 g (0.0369 mol) of 1-(3,5-dichlorophenyl)-3-dimethylamino-2-propen-1-one in 100 ml of ethanol. The reaction mixture is stirred for 2 hours at room temperature and then concentrated to dryness. The residue of triturated in heptane. 7.1 g (90% yield, melting point 156° C.) of 3-(3,5-dichlorophenyl)-1H-pyrazole are obtained.

reactant | hydrazine hydrate | 0.05 mol, 2.4 g | O.NN
reactant | 1-(3,5-dichlorophenyl)-3-dimethylamino-2-propen-1-one | 0.0369 mol, 9 g | ClC=1C=C(C=C(C1)Cl)C(C=CN(C)C)=O | C11H11Cl2NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-(3,5-dichlorophenyl)-1H-pyrazole | 7.1 g, 90% yield | ClC=1C=C(C=C(C1)Cl)C1=NNC=C1 | C9H6Cl2N2
